US04448968
(b) Preparation of 5-phenoxymethyl-1,3,4-thiadiazol-2(3H)-one
44 g of crude 2-methoxy-5-phenoxymethyl-1,3,4-thiadiazole are added in portions to a solution of 15 g of hydrogen chloride in 200 ml of dioxane. After boiling for one hour under reflux, the mixture is evaporated and the resulting mass is recrystallised from a little methanol. This gives 30 g of 5-phenoxymethyl-1,3,4-thiadiazol-2(3H)-one as colourless crystals.

reactant | 2-methoxy-5-phenoxymethyl-1,3,4-thiadiazole | 44 g | COC=1SC(=NN1)COC1=CC=CC=C1 | C10H10N2O2S
reactant | hydrogen chloride | 15 g | Cl | ClH
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 5-phenoxymethyl-1,3,4-thiadiazol-2(3H)-one | O(C1=CC=CC=C1)CC1=NNC(S1)=O | C9H8N2O2S
